US08609653B2
5-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine
A mixture of 6-bromo-5-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine (2.276 g, 9.98 mmol), potassium acetate (2.94 g, 29.9 mmol) and bis(pinacolato)diboron (3.80 g, 14.97 mmol) in N,N-dimethylformamide (DMF) (10 mL) was degassed with nitrogen. PdCl2(dppf)-CH2Cl2 adduct (1.630 g, 1.996 mmol) was added and then the flask was immersed in a 90° C. oil bath and heated for 1 hour. The mixture was cooled to ambient temperature and allowed to sit for several days. The mixture was filtered over Celite™ to remove the solids and the filter cake was washed with ethyl acetate. The filtrate was washed twice with water. The water was back extracted with ethyl acetate. The combined extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel (0-100% ethyl acetate/hexanes) to afford an off-white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.19 (d, J=8.2 Hz, 1 H), 6.69 (d, J=8.0 Hz, 1 H), 4.29-4.16 (m, 2 H), 3.59 (br. s., 1 H), 3.53-3.39 (m, 2 H), 2.35 (s, 3 H), 1.33 (s, 9 H); LC/MS (m/z) ES+=276 (M+1).

reactant | 6-bromo-5-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | 9.98 mmol, 2.276 g | BrC1=C(C2=C(OCCN2)C=C1)C | C9H10BrNO
reactant | potassium acetate | 29.9 mmol, 2.94 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 14.97 mmol, 3.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | PdCl2(dppf) CH2Cl2 | 1.996 mmol, 1.630 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine | CC1=C(C=CC=2OCCNC21)B2OC(C(O2)(C)C)(C)C | C15H22BNO3
